US07776897B2
A chloroform solution (2.7 ml) of 4-{4-methyl-[5-(1-(2-thienyl)cyclopentyl]-4H-1,2,4-triazol-3-yl}phenol (40 mg), triethylamine (103 μl), and ethyl isocyanate (57 μl) was heated at 60° C. for 5 hours. The solvent was removed by evaporation and a small amount of ethyl acetate was added to the residue. The resulting white solid was collected by filtration and washed with diethyl ether to obtain 4-{4-methyl-[5-(1-(2-thienyl)cyclopentyl]-4H-1,2,4-triazol-3-yl}phenyl ethylcarbamate (30 mg).

reactant | chloroform | 2.7 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 4-methyl-[5-(1-(2-thienyl)cyclopentyl]-4H-1,2,4-triazol-3-yl}phenol | 40 mg | CC1=CC(=C(C=C1)O)C1=NN=C(N1)C1(CCCC1)C=1SC=CC1 | C18H19N3OS
reactant | ethyl isocyanate | 57 μl | C(C)N=C=O | C3H5NO
solvent | triethylamine | 103 μl | C(C)N(CC)CC | C6H15N
product | 4-methyl-[5-(1-(2-thienyl)cyclopentyl]-4H-1,2,4-triazol-3-yl}phenyl ethylcarbamate | 30 mg | C(C)NC(OC1=C(C=C(C=C1)C)C1=NN=C(N1)C1(CCCC1)C=1SC=CC1)=O | C21H24N4O2S
